US05286728
Analogously to Example 55, 1.5 g of 4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl chloride are reacted with 0.76 g of 2-methylbenzylpiperazine, yielding 1-{4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl}-4-(2-methylbenzyl)piperazine. The hydrochloride thereof melts at 142°-143°.

reactant | 4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl chloride | 1.5 g | C(C)(C)OCCN(C(CCl)=O)C1=CC=C(C(=O)Cl)C=C1 | C14H17Cl2NO3
reactant | 2-methylbenzylpiperazine | 0.76 g | CC1=C(CN2CCNCC2)C=CC=C1 | C12H18N2
product | 1-{4-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl}-4-(2-methylbenzyl)piperazine | C(C)(C)OCCN(C(CCl)=O)C1=CC=C(C(=O)N2CCN(CC2)CC2=C(C=CC=C2)C)C=C1 | C26H34ClN3O3
